US06350749B1
A mixture of 7-(3-chlorothiophen-2-yl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one (7.07 g), ethyleneglycol (6.2 g) and p-toluenesulfonic acid (6.9 g) in toluene (200 ml) was refluxed for 15 hours, with separating water, and to the reaction solution were added ethyl acetate (150 ml) and saturated sodium hydrogen carbonate solution (200 ml). The mixture was shaken, and the separated upper layer was washed with water and concentrated under reduced pressure. The residue was purified with silica gel column chromatography to give 7-(3-chlorothiophen-2-yl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one-ethyleneacetal(7.3 g) as colorless crystals.

reactant | 7-(3-chlorothiophen-2-yl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one | 7.07 g | ClC1=C(SC=C1)C1CC(C=2C(=CC=NC2C1)C)=O | C14H12ClNOS
reactant | ethyleneglycol | 6.2 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 6.9 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogen carbonate | 200 ml | C(O)([O-])=O.[Na+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 7-(3-chlorothiophen-2-yl)-4-methyl-5,6,7,8-tetrahydroquinolin-5-one-ethyleneacetal | 7.3 g | C1COC2(C=3C(=CC=NC3CC(C2)C=2SC=CC2Cl)C)O1 | C16H16ClNO2S
